US06022822
17.2 g of o-[tri(cyclohexyl)]tin]benzylalcohol was obtained in the same manner as in the synthesis of tricyclohexyl[o-(1-hydroxyethyl)phenyl]tin of Example 1-(4), with the exception that 9.40 g of o-bromobenzylalcohol (50.2 mmol), prepared in the aforementioned example (1), instead of o-bromo-1-phenyl ethanol (yield=75.1%).

reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | tricyclohexyl[o-(1-hydroxyethyl)phenyl]tin | C1(CCCCC1)[Sn](C1=C(C=CC=C1)C(C)O)(C1CCCCC1)C1CCCCC1
reactant | o-bromobenzylalcohol | 50.2 mmol, 9.40 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
product | o-bromo-1-phenyl ethanol | yield=75.1% | BrC1=C(C=CC=C1)C(C)O | C8H9BrO
